US07109354B2
b) 6-(3-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-2-nitro-biphenyl-4-yl}-ureido)-hexanoic acid ethyl ester
A 25 mL round bottom flask was charged with 6-[3-(4-bromo-3-methyl-5-nitro-phenyl)-ureido]-hexanoic acid ethyl ester (110 mg, 0.264 mmol, Example 278: step a), {[4-(3-dihydroxyboranyl-benzenesulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester (234 mg, 0.529 mmol, Example 140: step a), aqueous Na2CO3 (2M, 1.06 mL, 2.12 mmol), ethanol (1.06 mL, anhydrous) and toluene (2.11 mL, anhydrous). A stir bar was added, the solution was degassed for 10 min, and Pd(PPh3)4 (76 mg, 65.8 μmol) was added. The reaction mixture was stirred under Ar at 80° C. for 5 hrs, then cooled to rt. The solvents were removed in vacuo. The residue was diluted in EtOAc, washed with brine, and dried over magnesium sulfate. Removal of solvents in vacuo followed by preparative TLC (50–100% EtOAc/hexanes) afforded the title compound as a brown oil (74 mg, 37%). ESI-MS (m/z): Calcd. for C33H41N5O9S3: 748.2 (M+1); found: 747.8.

reactant | 6-[3-(4-bromo-3-methyl-5-nitro-phenyl)-ureido]-hexanoic acid ethyl ester | C(C)OC(CCCCCNC(=O)NC1=CC(=C(C(=C1)[N+](=O)[O-])Br)C)=O | C16H22BrN3O5
reactant | {[4-(3-dihydroxyboranyl-benzenesulfonyl)-5-methylsulfanyl-thiophen-2-yl]-imino-methyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(=N)C=1SC(=C(C1)S(=O)(=O)C1=CC(=CC=C1)B(O)O)SC)=O | C17H21BN2O6S3
reactant | Na2CO3 | 2.12 mmol, 2M, 1.06 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 1.06 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 65.8 μmol, 76 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 2.11 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(3-{3′-[5-(tert-Butoxycarbonylamino-imino-methyl)-2-methylsulfanyl-thiophene-3-sulfonyl]-6-methyl-2-nitro-biphenyl-4-yl}-ureido)-hexanoic acid ethyl ester | 74 mg, 37% | C(C)OC(CCCCCNC(=O)NC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)S(=O)(=O)C1=C(SC(=C1)C(=N)NC(=O)OC(C)(C)C)SC)[N+](=O)[O-])=O | C33H41N5O9S3
